US09079866B2
1-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}piperidine-4-carbonitrile
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 1-((2-bromophenyl)sulfonyl)piperidine-4-carbonitrile. MS (ESI): mass calcd. for C22H20FN5O2S, 437.13; m/z found, 438.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.35 (s, 1H), 8.29 (d, J=1.1, 1H), 8.12-8.09 (m, 1H), 7.99 (m, 1H), 7.74-7.69 (m, 1H), 7.65-7.60 (m, 1H), 7.45-7.42 (m, 1H), 7.34 (s, 1H), 7.32-7.30 (m, 1H), 3.10-3.02 (m, 2H), 2.86-2.73 (m, 3H), 1.82-1.73 (m, 2H), 1.64-1.53 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-((2-bromophenyl)sulfonyl)piperidine-4-carbonitrile | BrC1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)C#N | C12H13BrN2O2S
product | 1-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}piperidine-4-carbonitrile | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)C#N)F | C22H20FN5O2S
